US06759554B2
4-Amino-N-(3,5-dimethylphenyl)benzamide
Using general procedure A, 4-aminobenzamide (170 mg, 1.25 mmol) was coupled with 5-iodo-m-xylene (150 μL, 1.04 mmol). The crude product was purified by flash chromatography on silica gel (2×20 cm; hexane-ethyl acetate 2:3; 15 mL fractions). Fractions 9-18 provided 246 mg (98% yield) of the product as a white solid. 1H NMR (400 MHz, CDCl3): δ 7.74−7.69 (m, 2H), 7.66 (br s, 1H), 7.28 (s, 2H), 6.78 (s, 1H), 6.74−6.69 (m, 2H), 4.05 (br s, 2H), 2.33 (s, 6H). 13C NMR (100 MHz, CDCl3): δ 165.7, 150.3, 139.1, 138.6, 129.2, 126.2, 124.8, 118.2, 114.6, 21.8.

reactant | 4-aminobenzamide | 1.25 mmol, 170 mg | NC1=CC=C(C(=O)N)C=C1 | C7H8N2O
reactant | 5-iodo-m-xylene | 1.04 mmol, 150 μL | IC=1C=C(C=C(C1)C)C | C8H9I
product | 4-Amino-N-(3,5-dimethylphenyl)benzamide | 246 mg, 98% yield | NC1=CC=C(C(=O)NC2=CC(=CC(=C2)C)C)C=C1 | C15H16N2O
